US04897392
10,12-Dichloro-1-methyl-4H-indolo[1,2-d][1,2,4]triazolo[4,3-a][1,4]benzodiazepine
A solution of 1.91 g N-chlorosuccinimide in 45 ml dimethylformamide was added dropwise to a solution of 3.33 g 1-methyl-12-chloro-4H-indolo[1,2-d][1,2,4]triazolo[4,3-a][1,4]benzodiazepine in 100 ml dimethylformamide. The reaction mixture was stirred for three hours at room temperature. Upon addition of water and stirring overnight, a solid precipitated. This was collected, triturated with hexane and dried to yield 1.72 g. Recrystallization from methanol/water yielded 1.17 g solid;

reactant | N-chlorosuccinimide | 1.91 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 1-methyl-12-chloro-4H-indolo[1,2-d][1,2,4]triazolo[4,3-a][1,4]benzodiazepine | 3.33 g | CN1N=CN2C1=CN1C(C3=C2C=CC=C3)=CC3=CC=C(C=C31)Cl | C18H13ClN4
reactant | water | O | H2O
solvent | dimethylformamide | 45 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 10,12-Dichloro-1-methyl-4H-indolo[1,2-d][1,2,4]triazolo[4,3-a][1,4]benzodiazepine | 1.17 g | ClC1=C2C=C3N(C=C4N(C5=C3C=CC=C5)C=NN4C)C2=CC(=C1)Cl | C18H12Cl2N4
